US09108977B2
287 mg of ethyl 2-oxo-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate was dissolved in 5 ml of DMF, and 65 mg of 60% sodium hydride was added thereto in an ice-bath, followed by stirring for 1 hour. 0.3 ml of methyl iodide was added thereto, followed by stirring at room temperature for 3 hours. Then, a saturated aqueous sodium hydrogen carbonate solution was added thereto, followed by extraction with chloroform. The solvent was concentrated under reduced pressure and the residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc) to obtain 94 mg of ethyl 1-methyl-2-oxo-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate as a colorless solid.

reactant | ethyl 2-oxo-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate | 287 mg | O=C1NC2=CC3=C(C=C2CC1)CCN(CC3)C(=O)OCC | C16H20N2O3
reactant | sodium hydride | 65 mg | [H-].[Na+]
reactant | methyl iodide | 0.3 ml | CI | CH3I
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | ethyl 1-methyl-2-oxo-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate | 94 mg | CN1C(CCC2=CC3=C(C=C12)CCN(CC3)C(=O)OCC)=O | C17H22N2O3
